US04239701
Five ml (0.03 mol) of a 6 N hydrochloric acid solution was pipetted into a stoppered flask containing 2.21 g (0.01 mol) of tris(dimethylaminomethyl)phosphine oxide. The mixture was shaken until the fuming and exotherming subsided, allowed to stand 30 min, and then stripped of water under vacuum, leaving 3.32 g (100% yield) of tris(dimethylaminomethyl)phosphine oxide trihydrochloride as a white, crystalline solid, m.p. 228°-229° C. dec.

reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | tris(dimethylaminomethyl)phosphine oxide | 0.01 mol, 2.21 g | CN(C)CP(CN(C)C)(CN(C)C)=O | C9H24N3OP
solvent | water | O | H2O
product | tris(dimethylaminomethyl)phosphine oxide trihydrochloride | 3.32 g, 100% yield | Cl.Cl.Cl.CN(C)CP(CN(C)C)(CN(C)C)=O | InChI=1S/C9H24N3OP.3ClH/c1-10(2)7-14(13,8-11(3)4)9-12(5)6;;;/h7-9H2,1-6H3;3*1H
